US05495048
A solution of 50g of 4-(3-fluoro-4-methoxy-benzoyl)benzonitrile in 550 ml of methylene chloride is treated with 70 ml of BBr3 at 5° C. and stirred at room temperature. 1 I of 1M NaOH is added dropwise while cooling with ice. Then, the mixture is extracted with saturated aqueous NH4Cl solution and methylene chloride. The organic phase is washed with water and dried. After recrystallization from ether, there are obtained 34 g of 4-(3-fluoro-4-hydroxy-benzoyl)-benzonitrile, m.p. 168.5°-169.5° C.

reactant | 4-(3-fluoro-4-methoxy-benzoyl)benzonitrile | FC=1C=C(C(=O)C2=CC=C(C#N)C=C2)C=CC1OC | C15H10FNO2
reactant | BBr3 | 70 ml | B(Br)(Br)Br | BBr3
reactant | NaOH | 1M | [OH-].[Na+]
solvent | methylene chloride | 550 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-fluoro-4-hydroxy-benzoyl)-benzonitrile | 34 g | FC=1C=C(C(=O)C2=CC=C(C#N)C=C2)C=CC1O | C14H8FNO2
